US06897231B2
A. N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-2-phenoxypropanamide
To a solution of 2-phenoxypropanoic acid (0.045 g, 0.274 mmol) in 2.5 mL of dichloromethane was added 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (EDCI) (0.057 g, 0.298 mmol). The reaction was stirred at room temperature for 10 min before 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine (0.150 g, 0.248 mmol) dissolved in 1 mL of dichloromethane, was added to the solution. The reaction was stirred at room temperature for 3 hours. The reaction mixture was then partitioned between water and dichloromethane. The crude material that was obtained from evaporation of the extracts was not purified further. (Yield not calculated) ES-MS (m/z) 751 [M+H]+.

reactant | 2-phenoxypropanoic acid | 0.274 mmol, 0.045 g | O(C1=CC=CC=C1)C(C(=O)O)C | C9H10O3
reactant | 1-(3-dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 0.298 mmol, 0.057 g | Cl.CN(CCCN=C=NCC)C
reactant | 3-{1-perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)]-1H-indazol-3-yl}phenylamine | 0.248 mmol, 0.150 g | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)N | C39H34N6O
solvent | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | N-(3-{1-Perhydro-2H-pyran-2-yl-5-[1-(triphenylmethyl)(1,2,4-triazol-3-yl)](1H-indazol-3-yl)}phenyl)-2-phenoxypropanamide | O1C(CCCC1)N1N=C(C2=CC(=CC=C12)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=1C=C(C=CC1)NC(C(C)OC1=CC=CC=C1)=O | C48H42N6O3
